US04734429
The above procedure was repeated using 1,4,6,7-tetrahydro-1-methyl-5H-indazol-5-one and N,N-dimethylformamide dimethyl acetal. The crude product was flash chromatographed (5% methanol in dichloromethane) on silica gel to give a thick amber oil which was triturated with etherhexane to give 4-(dimethylaminomethylene) 1,4,6,7-tetrahydro-1-methyl-5H-indazol-5-one as a tan powder melting at about 94°-100° C.

reactant | 1,4,6,7-tetrahydro-1-methyl-5H-indazol-5-one | CN1N=CC=2CC(CCC12)=O | C8H10N2O
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | 4-(dimethylaminomethylene) 1,4,6,7-tetrahydro-1-methyl-5H-indazol-5-one | CN(C)C=C1C=2C=NN(C2CCC1=O)C | C11H15N3O
